US08859574B2
To a reaction tube was added (S)-4-(4-amino-2,5-dimethylphenyl)oxazolidin-2-one (48 mg, 0.23 mmol), 2,5-dichloro-N-(5-methyl-1H-pyrazol-3-yl)pyrimidin-4-amine (77 mg, 0.32 mmol), iPrOH (2 mL) and HCl (0.13 mL, 0.52 mmol, 4N in dioxane). The tube was then sealed and heated at 130° C. for 6 h. After cooling down to room temperature, the mixture was concentrated and purified by preparative RP-HPLC to provide (S)-4-(4-(5-chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-2,5-dimethyl-phenyl)oxazolidin-2-one; ESMS m/z 414.1 (M+H+).

reactant | (S)-4-(4-amino-2,5-dimethylphenyl)oxazolidin-2-one | 0.23 mmol, 48 mg | NC1=CC(=C(C=C1C)[C@@H]1NC(OC1)=O)C | C11H14N2O2
reactant | 2,5-dichloro-N-(5-methyl-1H-pyrazol-3-yl)pyrimidin-4-amine | 0.32 mmol, 77 mg | ClC1=NC=C(C(=N1)NC1=NNC(=C1)C)Cl | C8H7Cl2N5
reactant | HCl | 0.52 mmol, 4N, 0.13 mL | Cl | ClH
solvent | iPrOH | 2 mL | CC(C)O | C3H8O
product | (S)-4-(4-(5-chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-2,5-dimethyl-phenyl)oxazolidin-2-one | ClC=1C(=NC(=NC1)NC1=CC(=C(C=C1C)[C@@H]1NC(OC1)=O)C)NC1=NNC(=C1)C | C19H20ClN7O2
